US03969351
D. 2-[5-(4-Morpholinylmethyl)-2-thienyl]-5-nitrobenzoxazole
2-(5-Bromomethyl-2-thienyl)-5-nitrobenzoxazole (2.0 g, 0.006 mole) and morpholine (2.6 g, 0.03 mole) are dissolved in 100 ml of benzene and heated at reflux for 36 hours. The precipitated morpholine hydrobromide is removed by filtration and the benzene is evaporated yielding an oil. Crystallization from ethanol yields 1.9 g of product, melting point 149°-151°C.

reactant | 2-(5-Bromomethyl-2-thienyl)-5-nitrobenzoxazole | 0.006 mole, 2.0 g | BrCC1=CC=C(S1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C12H7BrN2O3S
reactant | morpholine | 0.03 mole, 2.6 g | N1CCOCC1 | C4H9NO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-[5-(4-Morpholinylmethyl)-2-thienyl]-5-nitrobenzoxazole | 1.9 g | N1(CCOCC1)CC1=CC=C(S1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C16H15N3O4S
